US04547506
A mixture of sodium hydride (1.12 g) and 2-(3-amino-propylamino) pyridine (7.05 g) in DMSO (30 ml) was heated slowly to 85° C. under nitrogen. After the evolution of hydrogen had ceased the solution was cooled to room temperature and 4-chlorobenzyl chloride (5.95 ml) in DMSO (10 ml) added dropwise keeping the temperature below 30° C. After standing for 72 hr, water (300 ml) was added and the mixture extracted with ether. The extract was washed with water and 2N hydrochloric acid. The pH of the acid washing was raised to 6 and extracted with ether. The pH was raised further to 14 and extracted again with ether. After drying (MgSO4) and stripping, the final ether extract gave 2-[N-(3-aminopropyl)-N-(4-chlorobenzyl)amino]pyridine (7.43 g) as an oil, bp 160° C. 0.04 mm Hg. (ii) 2-[N-(3-aminopropyl)-N-(4-chlorobenzyl)amino]pyridine (1.25 g) and 2-nitroamino-5-(6-methylpyrid-3-ylmethyl)pyrimid-4-one (1.08 g) were heated together under reflux in pyridine (10ml) for 20 hr. On cooling, the mixture was stripped, the residue triturated with wet ether and recrystallised from isopropanol/water to give 2-[3-[N-(4-chlorobenzyl)-N-pyrid-2-ylamino]propylamino]-5-(6-methyl-pyrid-3-ylmethyl) pyrimid-4-one 1H2O, 1.68 g (83%) mp 88°-92° C.

reactant | sodium hydride | 1.12 g | [H-].[Na+]
reactant | 2-(3-amino-propylamino) pyridine | 7.05 g | NCCCNC1=NC=CC=C1 | C8H13N3
reactant | hydrogen | [H][H] | H2
reactant | 4-chlorobenzyl chloride | 5.95 ml | ClC1=CC=C(CCl)C=C1 | C7H6Cl2
solvent | DMSO | 30 ml | CS(=O)C | C2H6OS
solvent | DMSO | 10 ml | CS(=O)C | C2H6OS
solvent | water | 300 ml | O | H2O
product | 2-[N-(3-aminopropyl)-N-(4-chlorobenzyl)amino]pyridine | 7.43 g | NCCCN(CC1=CC=C(C=C1)Cl)C1=NC=CC=C1 | C15H18ClN3
